US04229364
According to the procedure of Fatiadi Synthesis, 1976, 133, incorporated herein by reference, the 1,4-bis(dicyanomethylene)cyclohexane is allowed to react with manganese dioxide in refluxing (110° C.) toluene for ca. 15 minutes to provide TCNQ in ca. 60% yields.

reactant | 1,4-bis(dicyanomethylene)cyclohexane | C(#N)C(=C1CCC(CC1)=C(C#N)C#N)C#N | C12H8N4
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | TCNQ | C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N | C12H4N4
